US03992393
A solution of 15 g. (37 mmol) of [[7-bromo-5-(2-pyridyl)-3H-1,4-benzodiazepine-2-yl]amino]acetaldehyde dimethyl-acetal in 50 ml. of concentrated sulfuric acid is allowed to stirat room temperature under nitrogen overnight, poured onto crushed ice and neutralized with an aqueous sodium hydroxide solution. The product is extracted with chloroform and the chloroform washed with brine, dried oversodium sulfate and concentrated to an oil in vacuo. On trituration, 10.2 g.(81%) of 8-bromo-6-(2-pyridyl)-4H-imidazo[1,2-a][1,4]benzodiazepine, a yellow crystalline product of melting point 208°-210°, is obtained.

reactant | [[7-bromo-5-(2-pyridyl)-3H-1,4-benzodiazepine-2-yl]amino]acetaldehyde dimethyl-acetal | 37 mmol | COC(CNC1=NC2=C(C(=NC1)C1=NC=CC=C1)C=C(C=C2)Br)OC | C18H19BrN4O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
product | 8-bromo-6-(2-pyridyl)-4H-imidazo[1,2-a][1,4]benzodiazepine | 81% | BrC=1C=CC2=C(C(=NCC=3N2C=CN3)C3=NC=CC=C3)C1 | C16H11BrN4
